US04722929
2-(2-Propoxy-4-methylmercapto-phenyl)-5-methoxy-imidazo[4,5-b]pyridine hydrochloride
Prepared analogously to Example 5 from 2,3-diamino-6-methoxypyridine dihydrochloride and 2-propoxy-4-methylmercapto-benzoic acid.

reactant | 2,3-diamino-6-methoxypyridine dihydrochloride | Cl.Cl.NC1=NC(=CC=C1N)OC
reactant | 2-propoxy-4-methylmercapto-benzoic acid | C(CC)OC1=C(C(=O)O)C=CC(=C1)SC | C11H14O3S
product | 2-(2-Propoxy-4-methylmercapto-phenyl)-5-methoxy-imidazo[4,5-b]pyridine hydrochloride | Cl.C(CC)OC1=C(C=CC(=C1)SC)C=1NC=2C(=NC(=CC2)OC)N1 | InChI=1S/C17H19N3O2S.ClH/c1-4-9-22-14-10-11(23-3)5-6-12(14)16-18-13-7-8-15(21-2)19-17(13)20-16;/h5-8,10H,4,9H2,1-3H3,(H,18,19,20);1H
